US04075001
A. N-(Dichloromethylene)-N,N-diethylammonium chloride
At 20°-25°, a solution of 175 g of bis(diethylthiocarbamoyl) disulfide in 1350 ml of carbon tetrachloride was saturated with chlorine gas (521 g). The reaction mixture was cooled to 10° and purged with nitrogen gas. The precipitate was collected by filtration. The filter cake was washed with carbon tetrachloride until the washings were colorless. The hygroscopic product N-(dichloromethylene)-N,N-diethylammonium chloride was dried under reduced pressure over a weekend. Drying of the yellow solid continued at 50° on a rotary evaporator for 4 hours to give 209 g of product which was used without further purification.

reactant | bis(diethylthiocarbamoyl) disulfide | 175 g | C(C)N(C(=S)SSC(N(CC)CC)=S)CC | C10H20N2S4
reactant | chlorine | 521 g | ClCl | Cl2
reactant | carbon tetrachloride | 1350 ml | C(Cl)(Cl)(Cl)Cl | CCl4
product | N-(Dichloromethylene)-N,N-diethylammonium chloride | 209 g | [Cl-].ClC(=[N+](CC)CC)Cl | InChI=1S/C5H10Cl2N.ClH/c1-3-8(4-2)5(6)7;/h3-4H2,1-2H3;1H/q+1;/p-1
